US08470820B2
Step 2: 1-Methyl-5-pyridin-2-yl-1H-pyrazole-3-carboxylic acid ethyl ester
To a stirred solution of (Z)-4-hydroxy-2-oxo-4-pyridin-2-yl-but-3-enoic acid ethyl ester (2.32 g, 10 mmol) at r.t. in EtOH (15 ml) under an argon atmosphere was added methylhydrazine (0.55 ml, 10 mmol). The mixture was heated to reflux and stirring was continued for 90 min. The mixture was cooled to r.t. and concentrated to leave a brown paste. After silica gel chromatography using a CH2Cl2/MeOH gradient, the product (1.43 g, 59%) was obtained as yellow waxy solid. MS: M=232.1 (M+H)+

reactant | (Z)-4-hydroxy-2-oxo-4-pyridin-2-yl-but-3-enoic acid ethyl ester | 10 mmol, 2.32 g | C(C)OC(C(\C=C(\C1=NC=CC=C1)/O)=O)=O | C11H11NO4
reactant | methylhydrazine | 10 mmol, 0.55 ml | CNN | CH6N2
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | EtOH | 15 ml | CCO | C2H6O
product | 1-Methyl-5-pyridin-2-yl-1H-pyrazole-3-carboxylic acid ethyl ester | 1.43 g, 59% | C(C)OC(=O)C1=NN(C(=C1)C1=NC=CC=C1)C | C12H13N3O2
